US04670448
1-Methyl-3-(methylthio)methyl-N-[3-[4-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine
Methyl N-[2-(methylthio)acetyl]-1-methyl-2-(phenylmethylene)hydrazine carboximidothioate (1.2 g) and 3-[4-(1-piperidinylmethyl)phenoxy]propanamine (0.9 g) were heated at 55° under water vacuum for 2 h. Additional carboximidothioate (0.09 g) was then added and the mixture heated for a further 1 h. The reaction mixture was dissolved in toluene (5 ml) and 5N hydrochloric acid (4 ml), stirred at room temperature for 18 h and the phases separated. The aqueous phase was basified to pH 10 with sodium carbonate and extracted with ethyl acetate to give an oil, which was chromatographed using ethyl acetate-methanol (3:1) to give the title compound (1.04 g) as an orange brown oil.

reactant | Methyl N-[2-(methylthio)acetyl]-1-methyl-2-(phenylmethylene)hydrazine carboximidothioate | 1.2 g | CSCC(=O)N=C(SC)N(N=CC1=CC=CC=C1)C | C13H17N3OS2
reactant | 3-[4-(1-piperidinylmethyl)phenoxy]propanamine | 0.9 g | N1(CCCCC1)CC1=CC=C(OCCCN)C=C1 | C15H24N2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | 5N, 4 ml | Cl | ClH
product | 1-Methyl-3-(methylthio)methyl-N-[3-[4-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine | 1.04 g | CN1N=C(N=C1NCCCOC1=CC=C(C=C1)CN1CCCCC1)CSC | C20H31N5OS
